US09447106B2
To a solution of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide (27.6 mg, 0.1 mmol) in DMF (3 mL) and CH3CN (5 mL) was added 2-(2-fluoro-4-nitrobenzyloxy)-tetrahydro-2H-pyran (25.5 mg, 0.1 mmol) and K2CO3 (27.6 mg, 0.2 mmol). After stirring at 80° C. under N2 for 16 hr, the mixture was concentrated and recrystallized with PE/EA to afford 40 mg (80%) of 5-amino-1-(5-nitro-2-((tetrahydro-2H-pyran-2-yloxy)methyl)phenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide as a yellow solid. MS (ESI) m/e [M+1]+ 512.2.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 0.1 mmol, 27.6 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C16H14N4O2
reactant | 2-(2-fluoro-4-nitrobenzyloxy)-tetrahydro-2H-pyran | 0.1 mmol, 25.5 mg | FC1=C(COC2OCCCC2)C=CC(=C1)[N+](=O)[O-] | C12H14FNO4
reactant | K2CO3 | 0.2 mmol, 27.6 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 5-amino-1-(5-nitro-2-((tetrahydro-2H-pyran-2-yloxy)methyl)phenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 40 mg, 80% | NC1=C(C(=NN1C1=C(C=CC(=C1)[N+](=O)[O-])COC1OCCCC1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C28H27N5O6
